US05696159
A solution of sodium periodate, 4.28 g (20 mol) in 40 ml of water is added dropwise to 6-fluoro-5-methoxy-2-methyl-1-(p-methylthiobenzylidene)-3-indenylacetic acid, 3.70 g (10 mmol) in 300 ml methanol and enough acetone to cause solution. This solution is stirred overnight at room temperature and filtered. The filtrate is evaporated at 30° to a small volume which causes the product to precipitate. The suspension is diluted with several volumes of water, and is cooled. Collected crystals are washed with water and methanol-water (1:1). The product is dried in vacuo over potassium hydroxide pellets and then in a vacuum oven at 70° C. The crude product is recrystallized from methylene chloride-petroleum ether to give 6-fluoro-5-methoxy-2-methyl-1-(p-methylsulfinyl-benzylidene)-3-indenylacetic acid (m.p. 190°-193°). 6-fluoro-5-methoxy-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid is prepared according to the procedure of Example 1, part G by the addition of 1.0 mol of m-chloroperbenzoic acid per mol of 6-fluoro-5-methoxy-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenyl acetic acid in an acetone solution.

reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | 6-fluoro-5-methoxy-2-methyl-1-(p-methylthiobenzylidene)-3-indenylacetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)SC)C)CC(=O)O)OC | C21H19FO3S
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 6-fluoro-5-methoxy-2-methyl-1-(p-methylsulfinyl-benzylidene)-3-indenylacetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O)OC | C21H19FO4S
